US08975254B2
c) (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile (0.05 g, 0.18 mmol) and 3-acetyl-1H-pyrazole-5-carboxylic acid (0.028 g, 0.18 mmol) using DMF (3 mL) as solvent using the method of Example 34(d). Yield 0.056 g. 1H NMR (400 MHz; CDCl3): δ 1.16 (d, 3H), 2.46 (s, 3H), 4.29 (m, 2H), 4.49 (m, 1H), 6.70 (dd, 1H), 7.17 (bs, 1H), 7.50 (m, 2H), 8.06 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 0.18 mmol, 0.05 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
reactant | 3-acetyl-1H-pyrazole-5-carboxylic acid | 0.18 mmol, 0.028 g | C(C)(=O)C1=NNC(=C1)C(=O)O | C6H6N2O3
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-3-acetyl-N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-1H-pyrazole-5-carboxamide | C(C)(=O)C1=NNC(=C1)C(=O)N[C@H](CN1N=C(C=C1)C1=C(C(=C(C=C1)C#N)Cl)F)C | C19H16ClFN6O2
